US07935815B2
Synthesis of and 2-(4-chloro-2-phenylbutyl)-5-{(E)-2-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]vinyl}-[1,3,4]oxadiazole
IPEA (2.0 mL), (E)-3-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]acrylic acid (600 mg) and BOPCl (0.71 g) were added to a solution of 5-hydroxy-3-phenylpentanoic acid hydrazide (492 mg) in methylene chloride (20 mL) at room temperature, and the reaction solution was stirred at room temperature for seven hours. Water was added to the reaction solution, followed by extraction with chloroform. The resulting extract was washed with a saturated sodium bicarbonate solution. The resulting organic layer was dried over magnesium sulfate and then concentrated under reduced pressure. Phosphorus oxychloride (10 mL) was added to the resulting residue at room temperature, and the reaction solution was heated under reflux for 1.5 hours. The reaction solution was left to cool to room temperature and then concentrated under reduced pressure. A saturated sodium bicarbonate solution was added to the residue, followed by extraction with ethyl acetate. The resulting extract was dried over magnesium sulfate and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography (carrier: Chromatorex NH; elution solvent: heptane-ethyl acetate system) to obtain 445 mg of the title compound. The property value of the compound is as follows.

reactant | IPEA | 2.0 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | (E)-3-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]acrylic acid | 600 mg | COC=1C=C(C=CC1N1C=NC(=C1)C)/C=C/C(=O)O | C14H14N2O3
reactant | BOPCl | 0.71 g | C1COC(=O)N1P(=O)(N2CCOC2=O)Cl | C6H8ClN2O5P
reactant | 5-hydroxy-3-phenylpentanoic acid hydrazide | 492 mg | OCCC(CC(=O)NN)C1=CC=CC=C1 | C11H16N2O2
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
solvent | Water | O | H2O
product | 2-(4-chloro-2-phenylbutyl)-5-{(E)-2-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]vinyl}-[1,3,4]oxadiazole | 445 mg | ClCCC(CC=1OC(=NN1)\C=C\C1=CC(=C(C=C1)N1C=NC(=C1)C)OC)C1=CC=CC=C1 | C25H25ClN4O2
